US07745475B2
3-{-4-[(Hydroxyamino)(imino)methyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
Hydroxylamine (50% w/w solution, 1 mL) was added to absolution of 3-(4-cyanophenoxy)-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide (300 mg, 0.74 mmol) in ethanol (3 mL) and the reaction mixture allowed to stir at RT for 18 hours. The volatiles were removed in vacuo to give the desired compound as a colourless foam (325 mg).

reactant | Hydroxylamine | 1 mL | NO | H3NO
reactant | 3-(4-cyanophenoxy)-5-[(1S)-2-methoxy-(1-methylethyl)oxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.74 mmol, 300 mg | C(#N)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC)C)C=C1 | C22H22N4O4
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-{-4-[(Hydroxyamino)(imino)methyl]phenoxy}-5-[(1S)-2-methoxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 325 mg | ONC(C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](COC)C)C=C1)=N | C22H25N5O5
